* Subcircuit 4_nor
.subckt 4_nor net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ 
* /home/ash98/downloads/esim-1.1.3/src/subcircuitlibrary/4_nor/4_nor.cir
.include 4_OR.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad1_ 4_OR
* u2  net-_u2-pad1_ net-_u1-pad5_ d_inverter
a1 net-_u2-pad1_ net-_u1-pad5_ u2
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Control Statements

.ends 4_nor