* /home/saurabh/desktop/esim/src/subcircuitlibrary/74ls04/74ls04.cir

.include 1N5819.lib
.include NPN.lib
* u1  net-_d1-pad2_ net-_d1-pad1_ net-_r1-pad1_ net-_q4-pad1_ port
d2 net-_d2-pad1_ net-_d1-pad2_ 1N5819
d1 net-_d1-pad1_ net-_d1-pad2_ 1N5819
q1 net-_d3-pad2_ net-_d2-pad1_ net-_q1-pad3_ Q2N2222
r2  net-_d2-pad1_ net-_q1-pad3_ 12k
r3  net-_q1-pad3_ net-_q2-pad2_ 1.5k
q2 net-_q2-pad1_ net-_q2-pad2_ net-_d1-pad1_ Q2N2222
r5  net-_q1-pad3_ net-_q2-pad1_ 3k
q4 net-_q4-pad1_ net-_q1-pad3_ net-_d1-pad1_ Q2N2222
r1  net-_r1-pad1_ net-_d2-pad1_ 20k
r4  net-_r1-pad1_ net-_d3-pad2_ 8k
q3 net-_q3-pad1_ net-_d3-pad2_ net-_d3-pad1_ Q2N2222
r6  net-_r1-pad1_ net-_q3-pad1_ 120
d3 net-_d3-pad1_ net-_d3-pad2_ 1N5819
q5 net-_q3-pad1_ net-_d3-pad1_ net-_q4-pad1_ Q2N2222
d4 net-_d4-pad1_ net-_d3-pad2_ 1N5819
r7  net-_d3-pad1_ net-_d4-pad1_ 4k
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
